US04988723
A solution of (3R,4S)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (2.40 g) and dimethyl N-cyanoimidodithiocarbonate [(CH2C=C--N--] (1.61 g) in pyridine (12 ml) was stirred at 80° C. for 10 hours, and then concentrated in vacuo. The residue was dissolved in ethyl acetate and washed with 5% aqueous hydrochloric acid, and brine. The organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was subjected to column chromatography on silica gel (48 g) and eluted with a mixture of chloroform and methanol (20:1). The fractions containing the object compound were combined and concentrated in vacuo to give (3R,4S)-4-(3-cyano-2-methyl-1-isothioureido)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (2.17 g).

reactant | (3R,4S)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 2.40 g | N[C@@H]1[C@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C12H14N2O2
reactant | dimethyl N-cyanoimidodithiocarbonate | CSC(=NC#N)SC | C4H6N2S2
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | (3R,4S)-4-(3-cyano-2-methyl-1-isothioureido)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 2.17 g | C(#N)N=C(N[C@@H]1[C@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O)SC | C15H16N4O2S
